* source PROIECT_APD_LUNGU_JEAN
R_R6         N14577 N39870  330k TC=0,0 
V_V2         VCC 0 18Vdc
V_V3         N14496 0  AC 2.5mV
+SIN 0 2.5mV 1k 0 0 0
X_P1         0 N25036 N15813 POT PARAMS: SET=1 VALUE=50k
Q_Q2         N15154 N15114 N15552 BC846B 
Q_Q1         N15114 N14577 N14648 BC846B 
C_C5         N14648 N23952  1n  TC=0,0 
C_C6         N23952 N23939  4.7u  TC=0,0 
C_C1         N14496 N14577  2.2u  TC=0,0 
C_C3         N15154 N15813  4.7u  TC=0,0 
R_R1         0 N14496  47k TC=0,0 
R_R3         0 N14648  1k TC=0,0 
R_R5         0 N14744  1k TC=0,0 
R_R15         N14744 N15552  1 TC=0,0 
R_R9         N23952 N14648  68k TC=0,0 
R_R11         N26976 N23952  510k TC=0,0 
R_R12         N40056 N26976  220k TC=0,0 
R_R2         N15114 N40668  100k TC=0,0 
R_R4         N15154 VCC  15k TC=0,0 
R_R27         0 N25036  47k TC=0,0 
C_C41         0 N14744  4.7u  TC=0,0 
C_C2         N23939 N15154  4.7u  TC=0,0 
R_R7         N39870 N14744  15k TC=0,0 
R_R13         N23939 N40056  100k TC=0,0 
R_R21         N40668 VCC  100k TC=0,0 
C_C34         N14744 0  1n  
